Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
uterine bleeding
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G3P3 perimenopausal woman with PE in the setting of OCP 
use on Xarelto presenting with uterine bleeding and symptomatic 
anemia. 

She has h/o reg, heavy menses with dysmenorrhea in setting of 
endometriosis confirmed on LSC. a year ago, she had irreg 
bleeding with hot flashes and was started on continuous OCP for 
sx control. She was amenorrheic on cont OCPs. She was diagnosed 
with PE ___ in setting of OCP use during work up for back
spasms. OCP was d/c'd and she was started on Xarelto. She 
subsequently had withdrawal bleed ___ initially like a 
heavymenses x 7 days, then became heavier, saturating a heavy 
tampon in ___ hrs and passage of clots, up to a palm size. She 
was seen by her gyn ___ and had EMB and was started on provera 
10mg BID. 

___ TVUS: 4 mm endometrium with no fibroid or focal 
endometrial abnormality identified. No adnexal mass or free 
fluid is noted.

She took 10mg BID ___. Then 20mg BID ___ and took her morning 
20mg today. She felt that the bleeding has improved but is still 
passing clots and pad ___ saturated every ___ hrs. She felt 
increased dizziness with ambulation and weakness over the past 
day and presented for eval in ED. No CP/SOB, abd pain, F/C, 
dysuria. 
 
Past Medical History:
OBHx:
- G3P3 c/s x 3
 
GynHx:
- h/o reg heavy menses, see HPI
- h/o abnl paps in her ___, s/p ablation, returned to ___ ___
screening and neg testing ___
- h/o endometriosis
- denies h/o fibroids,  STIs

PMH: 
- PE ___
- 
 
PSH: 
- c/s x 3
- LSC with ablation of endometriosis, "ovaries adhered to abd
wall"            
 
Social History:
___
Family History:
denies bleeding/clotting disorders, gyn/GI malignancies maternal 
aunt with breast cancer
 
Physical Exam:
ADMISSION
VS:  98.9 105 123/87 100% RA 
Gen: A&Ox3, NAD
CV: RRR
Pulm: no respiratory distress
Abd: soft, nondistended, no rebound/guarding. no peritoneal 
signs
Back: no costovertebral angle TTP
Ext: no TTP

DISCHARGE
VSS
CV: RRR
Lungs: CTAB
Abdomen: soft, nondistended, nontender to palpation without
rebound or guarding
GU: pad 25% saturated, no clots
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 07:45PM BLOOD WBC-11.1* RBC-2.78* Hgb-7.8* Hct-24.3* 
MCV-87 MCH-28.1 MCHC-32.1 RDW-13.8 RDWSD-42.6 Plt ___
___ 07:45PM BLOOD Neuts-57.3 ___ Monos-6.6 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-6.37* AbsLymp-3.77* AbsMono-0.73 
AbsEos-0.12 AbsBaso-0.08
___ 07:45PM BLOOD ___ PTT-29.7 ___
___ 07:45PM BLOOD Glucose-90 UreaN-17 Creat-0.7 Na-144 
K-4.0 Cl-103 HCO3-25 AnGap-16
___:32PM URINE Color-Red* Appear-Hazy* Sp ___
___ 06:32PM URINE Blood-LG* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR*
___ 06:32PM URINE RBC->182* WBC-132* Bacteri-NONE 
Yeast-NONE Epi-0
___ 06:32PM URINE UCG-NEGATIVE
___ 12:46AM OTHER BODY FLUID CT-NEG NG-NEG
==============
OTHER LABS
==============  
___ 04:35PM BLOOD WBC-9.2 RBC-3.20* Hgb-9.0* Hct-27.4* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-13.9 RDWSD-41.6 Plt ___
___ 09:10AM BLOOD WBC-8.6 RBC-3.21* Hgb-9.0* Hct-27.6* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-14.9 RDWSD-44.0 Plt ___
___ 04:13AM BLOOD ___ PTT-51.9* ___
==============
MICROBIOLOGY
==============
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

 
Brief Hospital Course:
Ms. ___ is a ___ year old G3P3 perimenopausal woman 
with a history of pulmonary embolism in the setting of OCP use 
on anticoagulation who admitted with uterine bleeding and 
symptomatic anemia. 

On admission, she was hemodynamically stable with an exam 
notable for normal pelvic exam and a small amount of active 
bleeding. Her hematocrit was 24.3, down from 27 on ___. She was 
transfused 2 unites of packed red blood cells, with a rise in 
her hematocrit to 27.4, which remained stable on recheck. Of 
note, she had an endometrial biopsy performed at ___ 
___ ___ that showed benign proliferative endometrium. 
Gonorrhea and chlamydia were both negative. She was continued on 
medroxyprogesterone 20 mg twice daily, with a plan to decrease 
the dose to 10 mg twice daily after 10 days.

Regarding her history of pulmonary embolism, her xarelto was 
discontinued and she was on a heparin drip for two days before 
being transitioned to lovenox 60 mg twice daily. She has no 
acute cardiopulmonary events during her admission.

By hospital day 2, she was stable and her bleeding decreased. 
She was discharged in good condition with follow-up scheduled.

 
Medications on Admission:
1. MedroxyPROGESTERone Acetate 20 mg PO BID RX 
*medroxyprogesterone 10 mg 2 tablet(s) by mouth twice a day Disp 
#*26 Tablet Refills:*0  
2. Xarelto 15 mg PO BID 
3. Baclofen 10 mg PO QHS:PRN Muscle Spasms  
4. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 60 mg subcutaneous twice a day Disp 
#*14 Syringe Refills:*0 
2.  MedroxyPROGESTERone Acetate 20 mg PO BID 
RX *medroxyprogesterone 10 mg 2 tablet(s) by mouth twice a day 
Disp #*26 Tablet Refills:*0 
3.  MedroxyPROGESTERone Acetate 10 mg PO BID 
please begin this course after finishing 20mg twice daily course 

RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
4.  Baclofen 10 mg PO QHS:PRN Muscle Spasms  
5.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding in setting of anticoagulation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Gynecology service for heavy vaginal 
bleeding while you were taking Xarelto. You were transfused two 
units of blood, and your blood count remained stable. You were 
started on a medication called Provera to control your bleeding 
and you were given a prescription to continue this medication at 
home.

You anticoagulation was switched to Lovenox, an injection you 
take twice per day. You were taught how to inject yourself with 
Lovenox and stated you did not need a home nursing visit for 
Lovenox. Your bleeding has decreased, you have recovered well, 
and the team now feels that you are ready to go home. 

Please call for any of the following:
- Heavy vaginal bleeding more than 1 pad per hour for 2+ hours
- Lightheadedness, dizziness, or fainting
- Chest pain or shortness of breath 
- Fevers/chills
- Severe abdominal pain that does not respond to medications 
- Any other concerns.
 
Followup Instructions:
___